US04377580
To a solution of 2-amino-4-ethylbenzonitrile (39.9 g) in acetic acid (200 ml) was added potassium cyanate (24.4 g) under ice-cooling in the course of 15 minutes and stirred overnight in water bath. To the resultant mixture was added water to give precipitates, which were separated by filtration, washed with water and dried at ambient temperature. The resultant crude crystals were recrystallized from ethanol to give crystalline (2-cyano-4-ethylphenyl)urea (29.0 g).

reactant | 2-amino-4-ethylbenzonitrile | 39.9 g | NC1=C(C#N)C=CC(=C1)CC | C9H10N2
reactant | potassium cyanate | 24.4 g | [O-]C#N.[K+]
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (2-cyano-4-ethylphenyl)urea | 29.0 g | C(#N)C1=C(C=CC(=C1)CC)NC(=O)N | C10H11N3O
